US05266283
3,5-di-t-amylsalicylaldehyde
2,4-di-t-amylphenol (70 g, 0.30 mole) was dissolved in 200 ml absolute ethanol in a 1 L round bottom flask equipped with a water-cooled condenser. Sodium hydroxide (82 g, 2.0 moles) was dissolved in 80 ml water and added while still hot to the solution of phenol. Chloroform (149 g, 1.25 mole) was added in 2 ml portions over a 45-minute period. The resulting yellow-brown mixture was stirred 2 hours while cooling to ambient temperature. The mixture was extracted into 400 ml of hexanes and the organic layer rinsed with 400 ml of 1M HCl. The organic layer was isolated in a separatory funnel and dried over anhydrous magnesium sulfate. The mixture was filtered and rotoevaporated to a thick syrup, and the IR spectrum of the crude product showed the characteristic aldehyde carbonyl stretching frequency. The product was used without further purification.

reactant | 2,4-di-t-amylphenol | 0.30 mole, 70 g | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)O | C16H26O
reactant | Sodium hydroxide | 2.0 moles, 82 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Chloroform | 1.25 mole, 149 g | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | 3,5-di-t-amylsalicylaldehyde | C(C)(C)(CC)C1=C(C(C=O)=CC(=C1)C(C)(C)CC)O | C17H26O2
